US07799810B2
Step 2: 3-Amino-N-isoxazol-3-yl-propionamide hydrochloride
[2-(Isoxazol-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester (0.702 g, 2.76 mmol) in dioxane (5 ml) is treated with 4M HCl in dioxane (3.44 ml) and stirred at room temperature for 3 days. The solvent is removed in vacuo and co-evaporated with toluene to afford the title compound as a pale brown solid.

reactant | [2-(Isoxazol-3-ylcarbamoyl)-ethyl]-carbamic acid tert-butyl ester | 2.76 mmol, 0.702 g | C(C)(C)(C)OC(NCCC(NC1=NOC=C1)=O)=O | C11H17N3O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.44 ml | O1CCOCC1 | C4H8O2
product | 3-Amino-N-isoxazol-3-yl-propionamide hydrochloride | Cl.NCCC(=O)NC1=NOC=C1 | InChI=1S/C6H9N3O2.ClH/c7-3-1-6(10)8-5-2-4-11-9-5;/h2,4H,1,3,7H2,(H,8,9,10);1H
